US04163846
3,5-Diamino-4-cyanopyrazole (6.1 g) prepared as in Example 3, iodomethane (3.1 ml), anhydrous potassium carbonate (7.6 g) and acetone (120 ml) were heated under reflux for 18 hours. The mixture was filtered, and the filtrate was concentrated to a viscous oil. Trituration of the oil with water gave a precipitate of 3,5-diamino-4-cyano-1-methylpyrazole (1.1 g), m.p. 194°-196° C.

reactant | 3,5-Diamino-4-cyanopyrazole | 6.1 g | NC1=NNC(=C1C#N)N | C4H5N5
reactant | iodomethane | 3.1 ml | IC | CH3I
reactant | potassium carbonate | 7.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | 3,5-diamino-4-cyano-1-methylpyrazole | 1.1 g | NC1=NN(C(=C1C#N)N)C | C5H7N5
